US05610293
F. Synthesis of [Manganese(II)dichloro(1,4,7,10,13-Pentaazacyclopentadecane)]
A solution of 1,4,7,10,13 -pentaazacyclopentadecane prepared as in Example 1E (2.0 g, 9.3 mmole) and anhydrous manganese(II) chloride (1.2 g, 9.3 mmole) in anhydrous methanol (50 ml) was refluxed under a dry nitrogen atmosphere for 3 h. The solution was filtered and the solvent removed in vacuo. The resulting solid was recrystallized from ethanol-ethyl ether to give 2.79 g (88% yield) of the product as an off-white crystalline solid: FAB mass spectrum (NBA) m/z (relative intensity) 340 (M+, 2), 305/307 ((M-Cl)+ 100/45)); Anal. Calcd. for C10H25Cl2 nN5 : C, 35.17; H, 7.38; Cl, 20.76; N 20.60. Found: C, 34.95; H, 7.31; Cl, 20.49; N, 20.22.

reactant | 1,4,7,10,13 -pentaazacyclopentadecane | N1CCNCCNCCNCCNCC1 | C10H25N5
reactant | manganese(II) chloride | 9.3 mmole, 1.2 g | [Cl-].[Mn+2].[Cl-]
solvent | methanol | 50 ml | CO | CH4O
product | Manganese(II)dichloro(1,4,7,10,13-Pentaazacyclopentadecane) | 2.79 g, 88% yield | ClC1N(CCNCCNCCNCCNC1)Cl.[Mn+2] | InChI=1S/C10H23Cl2N5.Mn/c11-10-9-16-6-5-14-2-1-13-3-4-15-7-8-17(10)12;/h10,13-16H,1-9H2;/q;+2
